### PR TITLE
feat: Array lemma for empty map added

### PR DESCRIPTION
**Pull request by Shreyas4991**
As the title says, this adds an API lemma `mem_empty`.

### CODE REVIEW

**Comment by Shreyas4991** [comment]
awaiting-review

File: Batteries/Data/Array/Lemmas.lean [hunk 1]
```diff
@@ -126,3 +126,8 @@ theorem size_shrink_loop (a : Array α) (n) : (shrink.loop n a).size = a.size -
 theorem size_shrink (a : Array α) (n) : (a.shrink n).size = min a.size n := by
   simp [shrink, size_shrink_loop]
   omega
+
+/-! ### map -/
+
+unseal mapM.map in
+theorem map_empty (f : α → β) : map f empty = empty := rfl
```
Comment (fgdorais) [inline Batteries/Data/Array/Lemmas.lean:133]: Since `mapM` needs to be mentioned anyway, we might as well have the matching pair.
```suggestion
theorem mapM_empty [Monad m] (f : α → m β) : mapM f #[] = pure #[] := by
  rw [mapM, mapM.map]; rfl

@[simp] theorem map_empty (f : α → β) : map f #[] = #[] := mapM_empty ..
```

Comment (Shreyas4991) [reply Batteries/Data/Array/Lemmas.lean:133]: Happy to accept this. At this point, I just hope these PRs will get merged some day.

**Review by fgdorais — APPROVED** [review]
